US05331099
This example illustrates the aminolysis of 4'-nitrobenzanilide, i.e., N-(4-nitrophenyl)benzamide, in methanol to give 4-nitroaniline.

reactant | 4'-nitrobenzanilide | [N+](=O)([O-])C1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C13H10N2O3
reactant | N-(4-nitrophenyl)benzamide | [N+](=O)([O-])C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C13H10N2O3
solvent | methanol | CO | CH4O
product | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
